US05919748
L-arginine (17.4 g, 0.1 mols) was dissolved in 100 ml of water in a three-necked round flask, and 100 ml of i-propanol were added thereto. Then, 24.2 g (0.1 mols) of dodecylglycidyl ether (made by Sakamoto Yakuhin Kogyo Co., Ltd.) were added dropwise thereto over a period of 30 minutes while being heat-refluxed and stirred. Further, the mixture was stirred under reflux for 3 hours. It was determined through TLC and gas chromatography that dodecylglycidyl ether disappeared. Thereafter, the resulting mixture was neutralized with 10.1 g (0.1 mols) of 36% hydrochloric acid. The reaction solution was concentrated under reduced pressure, and the residue was purified through silica-gel column chromatography (Kieselgel 60 made by Merck & Co., Inc., eluent=mixture of chloroform, methanol and acetic acid at a ratio of 3:1:0.5) to give 15.0 g of N-(2-hydroxy-3-dodecyloxy)propyl-L-arginine hydrochloride (yield 36.0%).

reactant | L-arginine | 0.1 mols, 17.4 g | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
reactant | i-propanol | 100 ml | C(C)(C)O | C3H8O
reactant | dodecylglycidyl ether | 0.1 mols, 24.2 g | C(CCCCCCCCCCC)OCC1CO1 | C15H30O2
reactant | hydrochloric acid | 0.1 mols, 10.1 g | Cl | ClH
solvent | water | 100 ml | O | H2O
product | N-(2-hydroxy-3-dodecyloxy)propyl-L-arginine hydrochloride | 15.0 g, yield 36.0% | Cl.OC(C)C(CCCCCCCCC)OCCCN[C@@H](CCCNC(N)=N)C(=O)O | InChI=1S/C21H44N4O4.ClH/c1-3-4-5-6-7-8-9-13-19(17(2)26)29-16-11-15-24-18(20(27)28)12-10-14-25-21(22)23;/h17-19,24,26H,3-16H2,1-2H3,(H,27,28)(H4,22,23,25);1H/t17?,18-,19?;/m0./s1
